US07468204B2
Synthesis of co-cyclohexane-tertiary butyl isophthalate polymer (CCH-tbia) Using DMCD
Synthesis of the co-cyclohexane-tbia was carried out in a batch reactor which was charged with the following raw materials: 1,4 dimethyl cyclohexane dicarboxylate (8.45 kg), 1,4 cyclohexane dimethanol (8.98 kg), neopentyl glycol (1.8 kg), ethylene glycol (7.95 kg), trimethylol propane (0.2 kg), cobalt (II) acetate (3.6 g), zinc acetate (5.0 g), and antimony (III) acetate (6.5 g). Under a pressure of 2 atmospheres (2×105 N/m2), this mixture was heated to 254 C while removing the reaction by-product, methanol. After completing this reaction and removing the methanol, tertiary butyl isophthalate (9.48 kg) was charged to the reactor. Under a pressure of 2 atmospheres (2×105 N/m2), the mixture was heated to 254° C. until the reaction by-product, water, was removed. Triethyl phosphonoacetate (7.0 g) was then charged to the reactor and the pressure was gradually reduced to 1 torr (263 N/m2) while heating to 290° C. The condensation by-product, ethylene glycol, was continuously removed until a polymer with intrinsic viscosity of 0.72 dl/g, as measured in 60/40 wt % phenol/o-dichlorobenzene, was produced. The polymer had a glass transition temperature of about 67° C. as measured by DSC with a temperature ramp of 20° C./min. This CCH-tbia had a refractive index of 1.519 as measured with a Metricon refractometer at 632 nm.

reactant | 1,4 dimethyl cyclohexane dicarboxylate | 8.45 kg | COC(=O)C1CCC(CC1)C(=O)OC | C10H16O4
reactant | 1,4 cyclohexane dimethanol | 8.98 kg | C1(CCC(CC1)CO)CO | C8H16O2
reactant | neopentyl glycol | 1.8 kg | OCC(C)(CO)C | C5H12O2
reactant | trimethylol propane | 0.2 kg | C(O)C(CC)(CO)CO | C6H14O3
reactant | antimony (III) acetate | 6.5 g | C(C)(=O)[O-].[Sb+3].C(C)(=O)[O-].C(C)(=O)[O-]
catalyst | cobalt (II) acetate | 3.6 g | C(C)(=O)[O-].[Co+2].C(C)(=O)[O-]
catalyst | zinc acetate | 5.0 g | C(C)(=O)[O-].[Zn+2].C(C)(=O)[O-]
solvent | ethylene glycol | 7.95 kg | C(CO)O | C2H6O2
product | cyclohexane tertiary butyl isophthalate | C1CCCCC1.C(C1=CC(C(=O)[O-])=CC=C1)(=O)OC(C)(C)C | InChI=1S/C12H14O4.C6H12/c1-12(2,3)16-11(15)9-6-4-5-8(7-9)10(13)14;1-2-4-6-5-3-1/h4-7H,1-3H3,(H,13,14);1-6H2/p-1
